US07449467B2
Preparation of N-{(1R,3S)-3-isopropyl-3-[(4-phenylpiperidin-1-yl)carbonyl]cyclopentyl}tetrahydro-2H-pyran-4-amine
To a solution of N-{(1R,3S)-3-isopropyl-3-[(4-phenyl-3,6-dihydropyridin-1(2H)-yl)carbonyl]cyclopentyl}tetrahydro-2H-pyran-4-amine (22 mg, 0.055 mmol) in methanol (2.0 mL) under N2 was added palladium (10 mg) (10% dry weight on wet activated carbon). The reaction mixture was stirred at room temperature under H2 (1 atm) overnight (22 h) and filtered through celite. The celite was washed with methylene chloride and the filtrate was concentrated to give 20 mg of desired product after lyophilization. MS calculated for C25H38N2O2: (M+H) 399; found 399.2.

reactant | N-{(1R,3S)-3-isopropyl-3-[(4-phenyl-3,6-dihydropyridin-1(2H)-yl)carbonyl]cyclopentyl}tetrahydro-2H-pyran-4-amine | 0.055 mmol, 22 mg | C(C)(C)[C@]1(C[C@@H](CC1)NC1CCOCC1)C(=O)N1CCC(=CC1)C1=CC=CC=C1 | C25H36N2O2
solvent | methanol | 2.0 mL | CO | CH4O
catalyst | palladium | 10 mg | [Pd] | Pd
product | N-{(1R,3S)-3-isopropyl-3-[(4-phenylpiperidin-1-yl)carbonyl]cyclopentyl}tetrahydro-2H-pyran-4-amine | 20 mg | C(C)(C)[C@]1(C[C@@H](CC1)NC1CCOCC1)C(=O)N1CCC(CC1)C1=CC=CC=C1 | C25H38N2O2
